US05073641
2-(ACETYLOXY)-N,N-DIMETHYLACETAMIDE
A suspension of anhydrous sodium acetate (16.4 g, 0.2 mole) and 2-chloro-N,N-dimethylacetamide (24.3 g, 0.2 mole) in toluene (70 ml) was refluxed for 4 h. After cooling to room temperature the mixture was filtered and the filtrate washed with water (2×10 ml), dried and evaporated in vacuo. The solid residue obtained was recrystallized from ether yielding 22.0 g (76%). Mp 52°-53° C.

reactant | sodium acetate | 0.2 mole, 16.4 g | C(C)(=O)[O-].[Na+]
reactant | 2-chloro-N,N-dimethylacetamide | 0.2 mole, 24.3 g | ClCC(=O)N(C)C | C4H8ClNO
solvent | toluene | 70 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(ACETYLOXY)-N,N-DIMETHYLACETAMIDE | C(C)(=O)OCC(=O)N(C)C | C6H11NO3
